US08871760B2
To a mixture of 183 mg (0.22 mmol) of Pd(dppf)Cl2.CH2Cl2 and 4.38 g (13.44 mmol) of Cs2CO3 in 13 mL of DMF under Argon atmosphere was added a solution of 500 mg (2.24 mmol) of 6-amino-5-bromoquinoline (commercially available from ACES Pharma Product List). Triethylborane in hexanes (2.91 mL of 1.0 M solution) was added, and the reaction was heated to 50° C. for 22 hours, then poured into 50 mL of water, and extracted with diethyl ether. The combined ether layers were washed with saturated aqueous NaHCO3 solution and brine, dried over MgSO4, filtered, and concentrated under reduced pressure to an oil. The oil was purified via silica gel chromatography, eluting with 0 to 50% EtOAc/hexanes to give 386 mg (65.8%) of 6-amino-5-ethylquinoline as e a colorless oil. MS (ESI): m/z 173.2 (M+H)+.

reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | Cs2CO3 | 13.44 mmol, 4.38 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 6-amino-5-bromoquinoline | 2.24 mmol, 500 mg | NC=1C(=C2C=CC=NC2=CC1)Br | C9H7BrN2
reactant | Triethylborane | C(C)B(CC)CC | C6H15B
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 0.22 mmol, 183 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 50 mL | O | H2O
product | 6-amino-5-ethylquinoline | 386 mg, 65.8% | NC=1C(=C2C=CC=NC2=CC1)CC | C11H12N2
